US07875728B2
A solution of 1-bromomethyl-3-nitrobenzene (2.16 g, 10 mmol), morpholine (1.76 g, 20.2 mmol) and triethylamine (1.0 mL) in THF (60 mL) was heated for two hours at 60° C. The solvent was evaporated, water was added and the product was isolated by extraction with ether. The ether extract was dried over Mg2SO4 and the solvent was evaporated. The crystalline residue was used in the next step without further purification. The product, 4-(3-nitrobenzyl)morpholine, was obtained in 94% yield (2.09 g).

reactant | 1-bromomethyl-3-nitrobenzene | 10 mmol, 2.16 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | morpholine | 20.2 mmol, 1.76 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-(3-nitrobenzyl)morpholine | 94% yield | [N+](=O)([O-])C=1C=C(CN2CCOCC2)C=CC1 | C11H14N2O3
